US08492582B2
Water (9.0 mL), sodium carbonate (2.6 g), 2-methoxyphenylboronic acid (1.8 g), and bis(triphenylphosphine)palladium(II) dichloride (0.14 g) were added to an ethylene glycol dimethyl ether (30 mL) solution of tert-butyl 4-bromo-2-nitrobenzoate (3.0 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 99-91% hexane/ethyl acetate] to obtain 3.3 g of tert-butyl 4-(2-methoxyphenyl)-2-nitrobenzoate as a light yellow oily substance.

reactant | sodium carbonate | 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methoxyphenylboronic acid | 1.8 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | tert-butyl 4-bromo-2-nitrobenzoate | 3.0 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C11H12BrNO4
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.14 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | Water | 9.0 mL | O | H2O
product | tert-butyl 4-(2-methoxyphenyl)-2-nitrobenzoate | 3.3 g | COC1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C18H19NO5
